Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Failure to thrive 
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Ms ___ is a ___ y/o F with PMH significant for alcoholic
steatosis presenting for failure to thrive/weight loss at home
over last 6 weeks, with initial workup concerning for alcoholic
liver disease. 

She was healthy until about ___ months ago.  She notes that a
variety of stressors began to impact her life at this time.  She
lives in ___ was affected by lack of natural gas.  She had 
to
take care of her brother who is a paranoid schizophrenic.  She
had a variety of stress at work.  Overall she is felt that her
mood is worsened during this time, has become more lethargic,
slept more, had a decreased appetite, notes a 22 pound weight
loss over 3 months.  She has continued to lose weight, and about
4 days ago, she began feeling so fatigued that she has barely
arisen from bed. She has not showered. She has extremely poor
appetite and has been getting progressively weak. Her best 
friend
visited her, and was still concerned about her health that she
felt she should be brought to the ED for further workup.

She otherwise denies fevers, chills, chest pain, dyspnea, cough,
abdominal pain, nausea, vomiting, diarrhea, arthralgias,
myalgias.

She does note that she drinks ___ drinks per night and that she
should probably decrease her alcohol intake.  She is been seen 
at
___ for alcoholic liver disease over the last year (see 
records
in chart). In review of records from ___, the patient 
is
being seen in the hepatology ___ alcoholic liver disease,
presumed to be cirrhosis.  MRI results from ___: Marked
hepatic steatosis. Stable hepatic hemangioma. No evidence for
biliary obstruction. Large left splenorenal shunt and
splenicmegaly raise suspicion for portal hypertension. Splenic
renal shunt collateralized with the left gonadal vein with
associated very large bilateral periuterine veins. Bilateral
renal cyst. Pancreatic cystic lesion probable IPMN.

Overall, hepatology at ___ were treating her as if she
presumptively had EtOH cirrhosis. 

In the ED, initial vitals:  T 98.1 HR 89 BP 150/65 RR 16 O2 sat
99% RA 
 
- Exam notable for: Very minor percussion tenderness over the
lumbar spine. ___. No edema.
- Labs notable for: Mg 1.4, AST/ALT elevation ___, serum EtOH
85, t bili with d bili 0.8, thrombocytopenia to 106, 
contaminated
UA.

- Imaging notable for abdominal US with echogenic liver, 2.9 x
2.9 x 3.3 cm heterogeneously echogenic mass in segment ___ of 
the
liver, no ascites or splenomegaly, gallbladder sludge without
acute cholecystitis.
 
Past Medical History:
- EtOH Liver Disease (likely EtOH steatosis, without definitive
cirrhosis)
- Osteoporosis 
 
Social History:
___
Family History:
Patient notes brother who has schizophrenia.
 
Physical Exam:
Admission Exam:
___ 1828 Temp: 98.4 PO BP: 123/49 HR: 81 RR: 18 O2 sat: 94%
O2 delivery: RA   
GEN: Well appearing, in no acute distress
HEENT: Conjunctiva clear, PERRL, MMM
NECK: No JVD. No cervical LA.
LUNGS: CTAB, with trace wheeze in right lung base
HEART: RRR, nl S1, S2. No m/r/g.
ABD: NT/ND, normal bowel sounds. No HSM noted.
EXTREMITIES: No edema or cyanosis. ___.
SKIN: No rashes.
NEURO: AOx3. CN II-XII intact. ___ Strength in UE and ___. 

Discharge exam:
T 98.4PO BP 133 / 76 R Sitting HR71 RR18 sat 96% Ra  
GEN: Well appearing, in no acute distress
HEENT: Conjunctiva clear, PERRL, MMM
LUNGS: CTAB
HEART: RRR, nl S1, S2. No m/r/g.
ABD: NT/ND, normal bowel sounds. No HSM noted.
EXTREMITIES: No edema or cyanosis. ___.
NEURO: AOx3. CN II-XII intact. ___ Strength in UE and ___. no
astirixes
 
Pertinent Results:
Admission labs:

___ 12:15PM BLOOD WBC-4.8 RBC-3.62* Hgb-13.1 Hct-36.9 
MCV-102* MCH-36.2* MCHC-35.5 RDW-12.6 RDWSD-47.8* Plt ___
___ 12:15PM BLOOD Neuts-62.2 ___ Monos-10.0 Eos-1.3 
Baso-1.3* Im ___ AbsNeut-2.99 AbsLymp-1.17* AbsMono-0.48 
AbsEos-0.06 AbsBaso-0.06
___ 12:15PM BLOOD Plt ___
___ 12:15PM BLOOD Glucose-101* UreaN-7 Creat-0.4 Na-141 
K-3.6 Cl-101 HCO3-23 AnGap-17
___ 12:15PM BLOOD ALT-41* AST-103* LD(LDH)-292* AlkPhos-93 
TotBili-2.9* DirBili-0.8* IndBili-2.1
___ 12:15PM BLOOD Albumin-3.9 Calcium-8.8 Phos-2.4* Mg-1.4*
___ 12:15PM BLOOD ASA-NEG Ethanol-85* Acetmnp-NEG 
Tricycl-NEG
___ 12:32PM BLOOD ___ pO2-51* pCO2-36 pH-7.47* 
calTCO2-27 Base XS-2

Studies:
___ 
CXR- no focal abnormalities

___ RUQ US
1. Echogenic liver consistent with steatosis. Other forms of 
liver disease including steatohepatitis, hepatic fibrosis, or 
cirrhosis cannot be excluded on the basis of this examination.
2. 2.9 x 2.9 x 3.3 cm heterogeneously echogenic mass in segment 
___ of the liver without demonstrable internal vascularity.  
Findings are incompletely characterized and should be further 
assessed with contrast enhanced MRI.
3. Portal venous system is patent with reversal of flow in the 
main, left, and right portal veins as well as the splenic and 
superior mesenteric veins.  No ascites or splenomegaly.
4. Gallbladder sludge acute cholecystitis.
5. 3.9 x 2.3 x 2.5 cm septated cyst in the interpolar right 
kidney without worrisome features.

 
Brief Hospital Course:
Ms ___ is a ___ y/o F with PMH significant for alcoholic 
steatosis who presented for failure to thrive/weight loss at 
home over last 6 weeks, with initial workup concerning for 
alcoholic liver disease. Further history consistent with weight 
loss secondary to poor appetite in the setting of several social 
factors. Up to date with malignancy workup though records at 
___. Mild alcoholic hepatitis with AST downtrending inpatient. 
Plan for outpatient follow up with hepatology and PCP. 

ACUTE ISSUES: 
============= 
# Alcoholic Steatosis
# Transaminitis
Patient with known longstanding history of EtOH use, with
elevated levels at admission, and AST/ALT elevated in 2:1 ratio,
concerning for alcoholic liver disease. She has had a MRCP at
___ which was significant for steatosis and a stable
hemangioma, and has evidence of portal hypertension/shunt on MRI
but no encephalopathy, bleeding, or ascites. No RUQ tenderness,
fevers, or new elevations of her LFTs concerning for severe
alcoholic hepatitis, though bili elevation concerning for mild
alc hep vs. cirrhosis. She has had extensive workup
for causes of her hepatitis which we negative, including viral
and autoimmune studies. Discussed importance of alcohol 
cessation with patient. Plan for outpatient follow up with 
hepatology. 

# Weight Loss
Unclear etiology of 22 lb weight loss over the last 3 months. 
Patient does note decreased appetite and symptoms of
depression/stress which could be contributing (PHQ placed 
patient
in moderate depression category). Has follow-up with primary
care at ___, with reported colonoscopy, mammography, CT scan 
of
the lungs all within last ___ years. RUQ US with liver mass,
though MRCP shows hemangioma in segment 7 and simple cyst in
segment 5 from ___. TSH wnl. Nutrition consulted. Plan for 
outpatient follow up with PCP. 

# EtOH Use
Patient notes currently drinking ___ drinks per week but did 
have
positive EtOH on tox screen upon presentation, and seems to have
liver disease out of proportion this history. Started on 
multivitamins, folate. 

# Thrombocytopenia:
# Macrocytosis: Likely in setting of alcohol use with some
component of liver disease.

CHRONIC ISSUES: 
=============== 
# Insomnia
Taking lorazepam prn at night at home. 

Transitional Issues:
===========================
- Obtain records from ___ to confirm cancer screening 
completed (done per patient)
- Consider inititating SSRI for depression and SW follow up 
- Would like to transfer all care to ___ 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LORazepam 0.5 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1.  FoLIC Acid 1 mg PO DAILY 
RX *folic acid 1 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Thiamine 100 mg PO DAILY 
RX *thiamine HCl (vitamin B1) 100 mg 1 tablet(s) by mouth daily 
Disp #*30 Tablet Refills:*0 
3.  LORazepam 0.5 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Alcoholic hepatitis
Failure to Thrive 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the hospital because you have lost a lot 
weight recently and wanted to be evaluated in the ___ system. 

Your liver has been inflamed and had damage to it because of 
alcohol use. It is really important that you cut down on alcohol 
use with the goal of completely stopping alcohol intake to avoid 
further worsening of liver function. 

We will work on getting you appointments with liver doctors and 
___ primary care doctor at ___. You will need to be followed 
closely for evaluation of your weight loss and liver function. 
Please start taking extra Ensure three times daily to improve 
your nutrition.  

It was a pleasure taking care of you, 

Your ___ Team 

 
Followup Instructions:
___